US06620830B2
3,5-dimethyl-4-(3-isopropyl-4-methoxy-phenoxy)-benzaldehyde-semicarbazone
To a solution of 4-(3-isopropyl-4-methoxy-phenoxy)-3,5-dimethyl-benzaldehyde (19 mg, 0.063 mmol) in ethanol (1 ml) at room temperature was added semicarbazide (7.7 mg, 0.69 mmol) and sodium acetate (5.1 mg, 0.063 mmol). After stirring at room temperature for about one hour, the solvent was removed under vacuum, and the residue was dissolved in ethyl acetate (5 ml). The ethyl acetate solution was washed with water (3×5 ml), brine (5 ml), dried, filtered, and concentrated to afford the title compound (20 mg) as a yellow solid which was used directly in the next step without further purification. MS (APCl−) Calc: 355.2, found: 354.3 (M−1).

reactant | 4-(3-isopropyl-4-methoxy-phenoxy)-3,5-dimethyl-benzaldehyde | 0.063 mmol, 19 mg | C(C)(C)C=1C=C(OC2=C(C=C(C=O)C=C2C)C)C=CC1OC | C19H22O3
reactant | semicarbazide | 0.69 mmol, 7.7 mg | NNC(=O)N | CH5N3O
reactant | sodium acetate | 0.063 mmol, 5.1 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3,5-dimethyl-4-(3-isopropyl-4-methoxy-phenoxy)-benzaldehyde-semicarbazone | 20 mg | CC=1C=C(C=NNC(=O)N)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C20H25N3O3
